US06251926B1
Sodium hydride (60%, in oil, 153 mg) was added to a solution of ethyl E-2-hydroxyimino-2-(3-pyridyl)acetate (619 mg) and 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (1.00 g) in N,N-dimethylformamide (10 ml) at room temperature under nitrogen atmosphere and stirred for 3 hours. 1N hydrochloric acid (7 ml) was added, an aqueous saturated solution of sodium bicarbonate was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-(3-pyridyl)acetate (1.02g, yield 68%) as a pale-yellow oil from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | Sodium hydride | 153 mg | [H-].[Na+]
reactant | ethyl E-2-hydroxyimino-2-(3-pyridyl)acetate | 619 mg | O\N=C(\C(=O)OCC)/C=1C=NC=CC1 | C9H10N2O3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 1.00 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | hydrochloric acid | 1N, 7 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl E-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-(3-pyridyl)acetate | 1.02g, yield 68% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(\C(=O)OCC)/C=2C=NC=CC2)C=C1 | C27H25N3O5
